US07196202B2
600 mg of 6-[[1-(4-methylphenyl)-2-propylmercapto-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester was dissolved in 10 ml of dichloromethane, mixed with 405 mg of m-chloroperbenzoic acid (about 60%), and the mixture was stirred for 15 minutes at 20° C. It was mixed with sodium disulfite solution, extracted twice with dichloromethane, the combined organic phases were washed with saturated sodium bicarbonate solution, water and saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was purified by column chromatography on silica gel. 525 mg of 6-[[1-(4-methylphenyl)-2-propanesulfinyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester was obtained.

reactant | 6-[[1-(4-methylphenyl)-2-propylmercapto-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | 600 mg | COC(CCCCCOC=1C=CC2=C(N(C(=N2)SCCC)C2=CC=C(C=C2)C)C1)=O | C24H30N2O3S
reactant | m-chloroperbenzoic acid | 405 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium disulfite | S(=O)([O-])OS(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-[[1-(4-methylphenyl)-2-propanesulfinyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | 525 mg | COC(CCCCCOC=1C=CC2=C(N(C(=N2)S(=O)CCC)C2=CC=C(C=C2)C)C1)=O | C24H30N2O4S
